US08455477B2
6-bromo-3-(cyclopropylethynyl)-4-methoxypyrazolo[1,5-a]pyridine (10.0 mg, 0.034 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (21.4 mg, 0.103 mmol), tetrakis(triphenylphosphine)palladium (0) (4.0 mg, 3.4 mmol), sodium carbonate (10.9 mg, 0.103 mmol) was suspended in 1,4-dioxane (900 μl/Water (100 μl). The mixture was sparged with Ar for 10 minutes, then heated to 90° C. for 4 h. The reaction mixture was cooled to ambient temperature, diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by preparative HPLC Reverse phase (C-18), eluting with Acetonitrile/Water+0.05% TFA. The fractions containing product were combined and diluted in ethyl acetate, then washed with aqueous sodium bicarbonate and dried over sodium sulfate. The solution was filtered and concentrated under reduced pressure to give 3-(cyclopropylethynyl)-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine. 1H NMR (600 MHz, CDCl3) δ 8.16 (s, 1H); 7.86 (s, 1H); 7.71 (s, 1H); 7.59 (s, 1H); 6.46 (s, 1H); 3.98 (s, 3H); 3.95 (s, 3H); 1.43-1.46 (m, 1H); 0.78-0.89 (m, 4H). LRMS (ESI) calculated for C17H17N4O [M+H]+, 293.1; found 293.1.

reactant | 6-bromo-3-(cyclopropylethynyl)-4-methoxypyrazolo[1,5-a]pyridine | 0.034 mmol, 10.0 mg | BrC=1C=C(C=2N(C1)N=CC2C#CC2CC2)OC | C13H11BrN2O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.103 mmol, 21.4 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | sodium carbonate | 0.103 mmol, 10.9 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 100 μl | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 3.4 mmol, 4.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(cyclopropylethynyl)-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | C1(CC1)C#CC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C17H16N4O
